US08084473B2
3-(4-Hex-1-enyl-1H-pyrazol-3-yl)-1,2,5,6-tetrahydro-1-methylpyridine (Compound 47A, Scheme 9)
Compound 46A (0.34 g, 0.97 mmol), 0.7 g of KOH and 1 ml of NH2NH2.H2O were combined in diethylene glycol (10 ml) and warmed to reflux for 1 hour under N2. The mixture was cooled, concentrated and redissolved in MeOH. Filtration over 25 g of SCX-2 (MeOH followed by 1 N NH3/MeOH) and subsequent purification by flash chromatography (ethyl acetate) afforded 3-(4-hex-1-enyl-1H-pyrazol-3-yl)-pyridine (the deprotected analog of 46A). Yield 0.18 g (86%). (TLC diethyl ether Rf 0.18). 3-(4-Hex-1-enyl-1H-pyrazol-3-yl)-pyridine was converted to the title compound 47A, using the methodology described for the conversion of 21 A to 22A (see Scheme 3). Yield: 50% (amorphous). LCMS (method A); Rt: 2.30 min, ([M+H]+=246). 1H-NMR (400 MHz, CDCl3): δ 7.59 (s, 1H), 6.22 (bd, J=16 Hz, 1H), 6.03-5.98 (bs, 1H), 5.98-5.88 (m, 1H), 3.26-3.21 (m, 2H), 2.63 (bt, J=7 Hz, 2H), 2.44 (s, 3H), 2.43-2.36 (m, 2H), 2.19-2.11 (m, 2H), 1.46-1.29 (m, 4H), 0.91 (t, J=7 Hz, 3H).

reactant | 3-(4-Hex-1-enyl-1H-pyrazol-3-yl)-pyridine | C(=CCCCC)C=1C(=NNC1)C=1C=NC=CC1 | C14H17N3
reactant | diethyl ether | C(C)OCC | C4H10O
product | 3-(4-Hex-1-enyl-1H-pyrazol-3-yl)-1,2,5,6-tetrahydro-1-methylpyridine | C(=CCCCC)C=1C(=NNC1)C=1CN(CCC1)C | C15H23N3
